US09351974B2
Step a: Synthesis of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-D-alaninate
To a stirred solution of 2,4-dichloro-5-nitropyrimidine (17.5 g, 90 mmol) in ether (100 mL) at —OC was added a solution of D-alanine methyl ester hydrochloride (12 g, 85.96 mmol) in water (50 mL). To the resulting mixture was added potassium carbonate (71.2 g, 515.5 mmol) in portions with vigorous stirring. Then the reaction was allowed to warm up to rt and stirred for 16 h. The precipitated solid was filtered to afford desired product as yellow solid (4 g). Ether layer was separated from filtrate, the aqueous layer was extracted with ether (50 mL×3). Combined ether layers were dried (Na2SO4), evaporated to give a crude residue, which was then purified by silica gel flash chromatography to give another 2.7 g of desired product. 1HNMR (300 MHz, CDCl3): δ 1.61 (d, J=7.2 Hz, 3H), 3.82 (s, 3H), 4.90-5.0 (m, 1H), 8.75 (br s 1H) and 9.07 (s, 1H).

reactant | 2,4-dichloro-5-nitropyrimidine | 90 mmol, 17.5 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | D-alanine methyl ester hydrochloride | 85.96 mmol, 12 g | Cl.COC([C@H](N)C)=O
reactant | potassium carbonate | 515.5 mmol, 71.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | water | 50 mL | O | H2O
product | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-D-alaninate | 4 g | ClC1=NC=C(C(=N1)N[C@H](C)C(=O)OC)[N+](=O)[O-] | C8H9ClN4O4
